US07169791B2
3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid ethyl ester
Utilising the procedure described in example 1b but employing 3-[(aminoiminomethyl)amino]-benzoic acid ethyl ester mononitrate in lieu of 3-[(aminoiminomethyl)amino]-4-methyl-benzoic acid ethyl ester mononitrate, afforded the title compound as a crystalline solid, m.p. 197–199° C.

reactant | 3-[(aminoiminomethyl)amino]-benzoic acid ethyl ester mononitrate | [N+](=O)(O)[O-].C(C)OC(C1=CC(=CC=C1)NC=NN)=O
reactant | 3-[(aminoiminomethyl)amino]-4-methyl-benzoic acid ethyl ester mononitrate | [N+](=O)(O)[O-].C(C)OC(C1=CC(=C(C=C1)C)NC=NN)=O
product | 3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)=O | C18H16N4O2
